US06166006
A mixture of 4-nitrobenzylamine (6.09 g, 40.0 mmol), 2-chloropyrimidine (4.82 g, 42.1 mmol), triethylamine (11.2 ml, 80.4 mmol) and ethanol (120 ml) was stirred at 110° C. for 24 hours, and the mixture was concentrated under reduced pressure. To the residue was added water, and the mixture wasextractedwithethylacetate-THF. Theorganiclayerwas dried with anhydrous sodium sulfate and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-ethanol to give N-(4-nitrobenzyl)-N-(2-pyrimidinyl)amine (0.99 g, 4.3 mmol, 11%).

reactant | 4-nitrobenzylamine | 40.0 mmol, 6.09 g | [N+](=O)([O-])C1=CC=C(CN)C=C1 | C7H8N2O2
reactant | 2-chloropyrimidine | 42.1 mmol, 4.82 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | triethylamine | 80.4 mmol, 11.2 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | N-(4-nitrobenzyl)-N-(2-pyrimidinyl)amine | 4.3 mmol, 0.99 g, 11% | [N+](=O)([O-])C1=CC=C(CNC2=NC=CC=N2)C=C1 | C11H10N4O2
